US07312285B2
Synthesis of Endo-Rich Allylacetate Norbornene
DCPD (dicyclopentadiene, Aldrich, 248 mL, 1.852 mol), allylacetate (Aldrich, 500 mL, 4.63 mol), and hydroquinone (0.7 g, 0.006 mol) were put in a 2 L autoclave. After heating to 180° C., reaction was carried out for 5 hours while stirring at 300 rpm. After the reaction was completed, the reaction mixture was cooled down and transferred to a distillation unit. The reaction mixture was distilled twice at 1 torr using a vacuum pump at 56° C. to obtain the product (yield: 30%). The mole ratio (mol %) of the exo-isomers to endo-isomers of the product was 17:83.

reactant | DCPD | 1.852 mol, 248 mL | C1C=CC2C1[C@H]3C[C@@H]2C=C3 | C10H12
reactant | allylacetate | 4.63 mol, 500 mL | C(C=C)CC(=O)[O-]
reactant | hydroquinone | 0.006 mol, 0.7 g | C1(O)=CC=C(O)C=C1 | C6H6O2
product | Allylacetate Norbornene | yield: 30% | C12C=CC(CC1)C2.C(C=C)CC(=O)O | InChI=1S/C7H10.C5H8O2/c1-2-7-4-3-6(1)5-7;1-2-3-4-5(6)7/h1-2,6-7H,3-5H2;2H,1,3-4H2,(H,6,7)
